US08859768B2
A mixture of N-{4-[5-(2-chlorophenyl)-4-(4-{[2-(trimethylsilyl)ethoxy]methyl}-4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}acetamide (0.42 g, 0.80 mmol), EtOH (25 mL) and aqueous NaOH (1M, 3 mL) was allowed to stir at reflux for 5 h. The reaction mixture was concentrated and the residue was washed with hexane. Diethyl ether was added and the mixture was filtered. The filtrate was concentrated to give 4-[5-(2-chlorophenyl)-4-(4-{[2-(trimethylsilyl)-ethoxy]methyl}-4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-amine (0.24 g, 62%) which was used in the next step without purification. LCMS (AA): m/z=483 (M+H).

reactant | N-{4-[5-(2-chlorophenyl)-4-(4-{[2-(trimethylsilyl)ethoxy]methyl}-4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}acetamide | 0.80 mmol, 0.42 g | ClC1=C(C=CC=C1)C1=C(N=C(O1)C1=CC(=NC=C1C)NC(C)=O)C1=NN=CN1COCC[Si](C)(C)C | C25H29ClN6O3Si
reactant | NaOH | 1M, 3 mL | [OH-].[Na+]
solvent | EtOH | 25 mL | CCO | C2H6O
product | 4-[5-(2-chlorophenyl)-4-(4-{[2-(trimethylsilyl)-ethoxy]methyl}-4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-amine | 0.24 g, 62% | ClC1=C(C=CC=C1)C1=C(N=C(O1)C1=CC(=NC=C1C)N)C1=NN=CN1COCC[Si](C)(C)C | C23H27ClN6O2Si
